Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Alcohol withdrawal
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo M w/hx alcohol use who presents with 
refractory nausea and vomiting. Patient has been drinking 
continuously for the past five days, and presents with NBNB 
vomiting and shakiness. He denies chest pain, headache, SOB, 
abdominal pain, diarrhea, or blood in his stool. He has not been 
able to take pos and feels dehydrated. He denies LOC, seizures, 
or DTs. He denies fevers or chills. 
Patient states that he was placed on a medication for 
"nervousness" by his PCP but that this did not work, and he has 
been drinking to calm his nerves. He denies suicidal or 
homicidal ideations, or feelings of depression. He denies head 
trauma with any of his binge drinking episodes. 
.

-Constitutional: [x]WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia
-Eyes: [x]WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough
-Gastrointestinal: []WNL [x]Nausea [x]Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena
-Heme/Lymph: [x]WNL []Bleeding []Bruising []Lymphadenopathy
-GU: [x]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]DIscharge []Menorrhagia
-Skin: []WNL [x]Rash []Pruritus
-Endocrine: [x]WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance
-Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain
-Neurological: [x] WNL []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache
-Psychiatric: [x]WNL []Depression []Suicidal Ideation
-Allergy/Immunological: [x] WNL []Seasonal Allergies

 
Past Medical History:
Psoriasis  
Anxiety
Alcohol use  

 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: 98.2 BP 110/70 HR 84 RR 20 O2sat 95% RA
Gen: well appearing, plethoric, actively vomiting into basin
HEENT: Sclera anicteric. No oral ulcers. Good dentition. Neck 
supple. PERRL. 
Hrt: RRR. No murmurs, rubs or gallops. 
Lungs: CTAB no RRW. 
Abd: Obese, nontender. Normoactive BS. No bulging flanks. 
Ext: No asterixis. No CCE. 
Neuro: AOx3. CN intact. FTN intact. No tremor. 

 
Pertinent Results:
143  95  17 / 50   AGap=34 
------------ 
3.9  18  1.1 \  
CK: 187  MB: 4  
ALT: 37 AP: 148 Tbili: 0.7 Alb: 4.3 
AST: 73 LDH: 249 
___:  Lip: 18     
Serum EtOH 287 
Serum ASA, Acetmnphn, ___, Tricyc Negative 
 89 
13.1 \ 16.7 / 278 
      ------
       47.9  
 N:76.1 L:21.0 M:1.8 E:0.4 Bas:0.7 
. 
EKG: NSR. No acute ST-T changes. 
CT head: No acute intracranial hemorrhage. Atrophy.
 
Brief Hospital Course:
Mr. ___ is a ___ yo M w/PMHx sx for alcoholism who presents 
after a drinking binge in alcohol withdrawal. He was placed on 
thiamine, multivitamin, and folate. He was initially placed on 
standing benzodiazepines, with extra doses as needed. On the day 
of discharge, he did not have any benzodiazepine requirements. 
He remained on telemetry, which was notable only for sinus 
tachycardia responsive to IV fluids. His TSH was normal. He was 
seen by the social worker in conjunction with his family, and 
was not amenable to further treatment for his alcoholism. 
A toxicology screen was negative for other substances. He was 
noted to have persistent nausea and vomiting. He had a negative 
EKG and head CT. He was given zofran, compazine, and reglan 
until his symptoms resolved. He was given maintenance IVF and a 
PPI. His UA was negative. He was noted to be hypoglycemic on 
admission, thought to be from poor oral intake in setting of 
alcoholic drinking binge. He was also noted to have an anion gap 
acidosis, with osmolar gap, thought to be from alcohol. This 
resolved. He was discharged home without services. 
 
Medications on Admission:
Anxiety med
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Alcohol withdrawal
2. Nausea and vomiting
3. Dehydration
4. Anxiety
5. Anion gap acidosis

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted with alcohol withdrawal. You were given 
medicine to help with withdrawal, and you will need to seek 
treatment for alcoholism.

 
Followup Instructions:
___